US08802864B2
b) 4-[3-fluoro-3′-(methyloxy)-4-biphenylyl]-5-{[(3S)-1-propanoyl-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
Into a 4 mL screwcap vial was placed 1,1-dimethylethyl (3S)-3-({4-[3-fluoro-3′-(methyloxy)-4-biphenylyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate (0.226 mmol). Added to the vial was 4N HCl in dioxane (2.0 mL). The vial was capped and the solution was stirred at room temperature for 2 h. The solution was concentrated in vacuo. Into the vial were place dichloromethane (1 mL) and N,N-diisopropylethylamine (0.14 mL). The solution was cooled in an ice bath. Into a separate vial, propanoyl chloride (0.217 mmol) was taken up in dichloromethane (1 mL) and then 0.5 ml, of this solution was added to the cold reaction. The vial was capped and stirred for 1 h, allowing the ice bath to slowly warm to room temperature. Since it was determined that the reaction was not complete, additional 0.10 mL of propanoyl chloride solution in dichloromethane was added to the reaction. After 1 h, the reaction was complete. Dichloromethane (1 mL) and saturated aq NH4Cl were added to the reaction. The vial was lightly agitated and the liquid phases were allowed to separate. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo. Reverse phase HPLC (10-70% acetonitrile/water+0.1% NH4OH) was utilized in purifying the title compound (21 mg, 21%). MS(ES)+ m/e 424.9 [M+H]+.

reactant | 1,1-dimethylethyl (3S)-3-({4-[3-fluoro-3′-(methyloxy)-4-biphenylyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate | 0.226 mmol | FC=1C=C(C=CC1N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)OC | C25H29FN4O4
reactant | HCl | 4N | Cl | ClH
reactant | propanoyl chloride | 0.217 mmol | C(CC)(=O)Cl | C3H5ClO
reactant | propanoyl chloride | 0.10 mL | C(CC)(=O)Cl | C3H5ClO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-[3-fluoro-3′-(methyloxy)-4-biphenylyl]-5-{[(3S)-1-propanoyl-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | FC=1C=C(C=CC1N1C(NN=C1C[C@H]1CN(CC1)C(CC)=O)=O)C1=CC(=CC=C1)OC | C23H25FN4O3
